US07563910B2
2-[5-(5-Chloro-2-fluoro-phenyl)-3-cyclohexylcarbamoyl-2-methyl-pyrrol-1-ylmethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester
The title compound was synthesized in analogy to example 7, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-[2-fluoro-5-chlorophenyl]-ethanone as compound of formula S, (R)-2-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester as R3—(CH2)m—NH2 and cyclohexylamine as R1R2NH, MS (ISP) 518.3 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-[2-fluoro-5-chlorophenyl]-ethanone | BrCC(=O)C1=C(C=CC(=C1)Cl)F | C8H5BrClFO
reactant | (R)-2-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CN | C10H20N2O2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 2-[5-(5-Chloro-2-fluoro-phenyl)-3-cyclohexylcarbamoyl-2-methyl-pyrrol-1-ylmethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)CN1C(=C(C=C1C1=C(C=CC(=C1)Cl)F)C(NC1CCCCC1)=O)C | C28H37ClFN3O3
